US04814346
7,8-Dihydroxy-3-(4-methylphenyl)-4H-1-benzopyran-4-one (2.7 g), described in example 9, is dissolved in dry acetone (50 ml). Pyrolyzed potassium carbonate (4.14 g) is added and the mixture is heated to reflux. A solution of methyl sulphate (3.78 g) in acetone (10 ml) is then added dropwise and heating is maintained for three more hours. After cooling, the solid is filtered and the solution is evaporated to dryness under vacuum. Water is added to the residue which is filtered, washed with an aqueous sodium hydroxide solution (1N) then with water and dried. After crystallization in methanol, 7,8-dimethoxy-3-(4-methylphenyl)-4H-1-benzopyran-4-one is obtained, m.p. 135°.

reactant | 7,8-Dihydroxy-3-(4-methylphenyl)-4H-1-benzopyran-4-one | 2.7 g | OC1=C(C2=C(C(C(=CO2)C2=CC=C(C=C2)C)=O)C=C1)O | C16H12O4
reactant | potassium carbonate | 4.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl sulphate | 3.78 g | S(=O)(=O)(OC)[O-]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 7,8-dimethoxy-3-(4-methylphenyl)-4H-1-benzopyran-4-one | COC1=C(C2=C(C(C(=CO2)C2=CC=C(C=C2)C)=O)C=C1)OC | C18H16O4
